US07635701B2
2-(3-Chlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid (2-oxo-propyl)-amide
To a stirred solution of 2-(3-chloro-phenylamino)-trifluoromethyl-pyrimidine-5-carboxylic acid (2-hydroxy-propyl)-amide (200 mg) in dimethylsulfoxide (6.0 ml) and triethylamine (324 mg) at 0° C. was added a solution of sulphur trioxide-pyridine complex (250 mg) in dimethylsulfoxide (6.0 ml). This was allowed to warm to room temperature and after 2 hours the mixture was diluted with dichloromethane and washed twice with 0.1N hydrochloric acid. The organic layer was dried (Na2SO4) and evaporated. The sample was purified by mass directed auto-purification to afford the title compound (91 mg).

reactant | 2-(3-chloro-phenylamino)-trifluoromethyl-pyrimidine-5-carboxylic acid (2-hydroxy-propyl)-amide | 200 mg | OC(CNC(=O)C=1C(=NC(=NC1)NC1=CC(=CC=C1)Cl)C(F)(F)F)C | C15H14ClF3N4O2
reactant | triethylamine | 324 mg | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 6.0 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 6.0 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(3-Chlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid (2-oxo-propyl)-amide | 91 mg | O=C(CNC(=O)C=1C(=NC(=NC1)NC1=CC(=CC=C1)Cl)C(F)(F)F)C | C15H12ClF3N4O2
